US04223033
To a cooled solution of 6-phenylthio-2-pyridylcarboxylic acid (0.75 g, 3.25 mmol) in 10 ml of tetrahydrofuran in an ice bath is added dropwise a borane-tetrahydrofuran solution (6.7 ml total, 6.70 mmol) over a period of 20 minutes. The reaction mixture is stirred at RT overnight. 3 N aqueous sodium hydroxide (4 ml) is added slowly and stirring is continued for another 8 hours. The solution is diluted with water, saturated with solid potassium carbonate and extracted with water. The extract is washed with water, saturated NaHCO3 and brine and dried to yield (6-phenylthio-2-pyridyl)methanol.

reactant | 6-phenylthio-2-pyridylcarboxylic acid | 3.25 mmol, 0.75 g | C1(=CC=CC=C1)SC1=CC=CC(=N1)C(=O)O | C12H9NO2S
reactant | borane tetrahydrofuran | 6.70 mmol, 6.7 ml | B.O1CCCC1
reactant | sodium hydroxide | 3 N, 4 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | (6-phenylthio-2-pyridyl)methanol | C1(=CC=CC=C1)SC1=CC=CC(=N1)CO | C12H11NOS
